US05387409
Zinc iodide (0.5 g) was added to a stirring solution of 4-bromobenzophenone (54.81 g, 0.21 mol) in dry dichloromethane (500 ml) at room temperature under N2 atmosphere. Trimethylsilyl cyanide (25 g, 0.25 mol) was added dropwise from an addition flask over a period of 1 hour and the mixture stirred at room temperature for 72 hours. The reaction mixture was treated with saturated sodium bicarbonate (200 ml) and stirred for 1 hour. The organic layer was separated, washed with water (2×150 ml) and concentrated. The residue was suspended in H2O:HCl:AcOH (1:33; 500 ml) and heated at 85°-90° C. for 48 hours. The solution was concentrated under vacuum to about 100 ml and treated with saturated sodium bicarbonate (400 ml) and extracted with ether (3×100 ml). The aqueous layer was acidified with 6N hydrochloric acid and the separated solid was dissolved in ether (300 ml). This organic layer was washed with water, filtered and the filtrate was evaporated to provide a colorless crystalline solid of (RS)-4-bromobenzilic acid in 19% yield (12 g); mp 125°-126° C.; TLC [silica gel, toluene-acetic acid] Rf 0.32; 1H NMR (DMSO-d6) δ2.38 (bs, 2H, COOH and OH) and 7.38-7.70 (m, 9H, AR-H).

reactant | 4-bromobenzophenone | 0.21 mol, 54.81 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | Trimethylsilyl cyanide | 0.25 mol, 25 g | C[Si](C)(C)C#N | C4H9NSi
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | Zinc iodide | 0.5 g | [I-].[Zn+2].[I-]
product | (RS)-4-bromobenzilic acid | 19% yield | BrC1=CC=C(C(C(=O)O)(O)C2=CC=CC=C2)C=C1 | C14H11BrO3
